US04629787
Methyl 2-oxo-3-phenylpropionate and α-t-Boc-L-lysine are condensed in the presence of sodium cyanoborohydride as described in Example 19. Subsequent ring closure to 3-(S)-t-butoxycarbonylamino-1-[1-carbomethoxy-2-phenylethyl]perhydroazepin-2-one is carried out as described in Example 3. Saponification of the methyl ester followed by removal of the t-butoxycarbonyl group affords 3-(S)-amino-1-[1-carboxy-2-phenylethyl]perhydroazepin-2-one. The caprolactam and 2-oxo-4-phenylbutyric acid are condensed in the presence of sodium cyanoborohydride to yield 1-[1-carboxy-2-phenylethyl]-3-(S)-[(1-carboxy-3-phenylpropyl)amino]perhydroazepin-2-one.

reactant | Methyl 2-oxo-3-phenylpropionate | O=C(C(=O)OC)CC1=CC=CC=C1 | C10H10O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 3-(S)-t-butoxycarbonylamino-1-[1-carbomethoxy-2-phenylethyl]perhydroazepin-2-one | C(C)(C)(C)OC(=O)N[C@@H]1C(N(CCCC1)C(CC1=CC=CC=C1)C(=O)OC)=O | C21H30N2O5
product | 3-(S)-amino-1-[1-carboxy-2-phenylethyl]perhydroazepin-2-one | N[C@@H]1C(N(CCCC1)C(CC1=CC=CC=C1)C(=O)O)=O | C15H20N2O3
